US07220744B2
(c) rac-5-Ethanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid
Prepared in analogy to Example A14(c) from 5-ethanesulfonyl-2-fluoro-benzoic acid and rac-1,1,1-trifluoro-propan-2-ol. MS (m/e): 325.1 ([M−H]−, 100%)

reactant | 5-ethanesulfonyl-2-fluoro-benzoic acid | C(C)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C9H9FO4S
reactant | rac-1,1,1-trifluoro-propan-2-ol | FC(C(C)O)(F)F | C3H5F3O
product | rac-5-Ethanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | C(C)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(C(F)(F)F)C | C12H13F3O5S
